US09388177B2
(2R)-2-(4-fluorophenyl)-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]propanamide
To a stirred solution of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (1.0 g) in DMF (45 mL) and dichloromethane (90 mL) was added sodium bicarbonate (766 mg), (2R)-2-(4-fluorophenyl)propanoic acid (844 mg) and HATU (2.6 g). The mixture was stirred at room temperature for 4 h. Water was added, and the mixture was stirred for 30 minutes. A half-saturated solution of sodium bicarbonate was added and the mixture was extracted with ethyl acetate. The organic phase was washed with saturated sodium chloride solution, dried (sodium sulfate) and the solvent was removed in vacuum. Silica-gel chromatography gave 1.53 g of the title compound.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 1.0 g | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
reactant | sodium bicarbonate | 766 mg | C([O-])(O)=O.[Na+]
reactant | (2R)-2-(4-fluorophenyl)propanoic acid | 844 mg | FC1=CC=C(C=C1)[C@H](C(=O)O)C | C9H9FO2
reactant | HATU | 2.6 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 45 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 90 mL | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | (2R)-2-(4-fluorophenyl)-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]propanamide | 1.53 g | FC1=CC=C(C=C1)[C@H](C(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C21H25BFNO3
